US09145366B2
Preparation of {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}acetic acid (5):
To a 50 mL flask is charged methyl {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}-acetate, 4, (0.45 g, 1.4 mmol), tetrahydrofuran (4.5 mL) and 1 M NaOH (4.5 mL, 4.5 mmol). The mixture was stirred for 2 hours at room temperature after which it was determined by TLC analysis using hexane/ethyl acetate (6:3) as the mobile phase and UV 435 nm to visualize the reaction components that the reaction was complete. The reaction solution was adjusted to pH 1 with concentrated HCl and the solution was heated at 35° C. under vacuum until all of the tetrahydrofuran had been removed. A slurry forms as the solution is concentrated. With efficient stirring the pH is adjusted to ˜2 with the slow addition of 1 M NaOH. The solid which forms was collected by filtration, washed with water, followed by hexane, then dried under vacuum to afford 0.38 g (88% yield) of the desired product as a white solid. 1H NMR (DMSO-d6) δ 12.84 (s, 1H), 12.39 (s, 1H), 9.39 (t, 1H), 8.56 (d, 1H), 7.94 (s, 1H), 7.81 (m, 2H), 7.55 (q, 2H), and 4.02 (d, 2H).

reactant | methyl {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}-acetate | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)NCC(=O)OC)O | C14H13ClN2O3
reactant | NaOH | 4.5 mmol, 1 M, 4.5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 1.4 mmol, 4.5 mL, 0.45 g | O1CCCC1 | C4H8O
product | {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}acetic acid | 0.38 g, 88% yield | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)NCC(=O)O)O | C13H11ClN2O3
